US07754728B2
9-Benzyl-2-(2-carboxyethyl)-8-hydroxyadenine
To dimethyl malonate (493 mg, 3.73 mmol) in DMF (8 ml) was added in an ice bath sodium hydride (75 mg, 3.13 mmol). Then the mixture was stirred at room temperature for 30 minutes. Thereto was added 9-benzyl-2-chloromethyl-8-hydroxyadenine (0.10 g, 0.37 mmol), and the mixture was stirred at room temperature for 21 hours. After removing the solvent, the residue was poured into water, concentrated, and neutralized with hydrochloric acid. The resulting solid was filtered, washed with water and dried in vacuo under heating to give 9-benzyl-2-(2,2-dimethoxycarbonylethyl)-8-hydroxyadenine (92 mg, 0.24 mmol) as a white solid. Thus obtained 9-benzyl-2-(2,2-dimethoxycarbonylethyl)-8-hydroxyadenine (79 mg, 0.20 mmol) was added to a mixed solvent of concentrated hydrochloric acid (2 ml) and 1,4-dioxane (6 ml), and the mixture was refluxed for 6 hours. After the reaction mixture was neutralized in an ice bath with saturated sodium hydrogencarbonate solution, the resulting solid was filtered, washed with water and dried in vacuo under heating to give the captioned compound (55 mg, 0.18 mmol) as a white solid.

reactant | 9-benzyl-2-(2,2-dimethoxycarbonylethyl)-8-hydroxyadenine | 0.20 mmol, 79 mg | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)CC(C(=O)OC)C(=O)OC | C18H19N5O5
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 9-Benzyl-2-(2-carboxyethyl)-8-hydroxyadenine | 0.18 mmol, 55 mg | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)CCC(=O)O | C15H15N5O3
